US07351778B2
1) Preparation of butyl 4-methyl-2-acetyl-3-oxo-valerate
Under nitrogen atmosphere, to a reactor was added 0.22 mol of potassium tert-butoxide. After evacuating for 2 hrs, 80 ml of THF was added to dissolve the solid with stirring. Then 0.1 mol of butyl acetoacetate was slowly dropped to the reactor cooled in an ice-water bath, and the reaction was continued for further 2 hrs. Then under cooled in the ice-water bath, 0.12 mol of isobutyryl chloride was slowly dropped, and the reaction was continued for further 1.5 hrs. Next, under cooled in the ice-water bath, water was added to dissolve resultant solid, and the reaction mixture was neutralized with hydrochloric acid. Diethyl ether was used to extract product, and the collected organic layer was dried over anhydrous sodium sulfate. Removing solvent by using a rotatory evaporator gave the product.

reactant | potassium tert-butoxide | 0.22 mol | CC(C)([O-])C.[K+]
reactant | butyl acetoacetate | 0.1 mol | C(CC(=O)C)(=O)OCCCC | C8H14O3
reactant | isobutyryl chloride | 0.12 mol | C(C(C)C)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | butyl 4-methyl-2-acetyl-3-oxo-valerate | CC(C(C(C(=O)OCCCC)C(C)=O)=O)C | C12H20O4
